US06723332B2
A solution of 5-bromo-7-methylimidazo[1,2-a]pyridine (2 g, 0.01 mol) and sodium methoxide (25%, 10 mL) in methanol (10 mL) is heated under reflux for 48 h. The solvent is removed and the residue diluted with ethyl acetate (200 mL) and water (150 mL). The organic layer is separated and washed with water and brine, and dried over sodium sulfate. Evaporation of the solvent gave 5-methoxy-7-methylimidazo[1,2-a]pyridine (lg, 62%) as a white semi-solid.

reactant | 5-bromo-7-methylimidazo[1,2-a]pyridine | 0.01 mol, 2 g | BrC1=CC(=CC=2N1C=CN2)C | C8H7BrN2
reactant | sodium methoxide | 10 mL | C[O-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 5-methoxy-7-methylimidazo[1,2-a]pyridine | 62% | COC1=CC(=CC=2N1C=CN2)C | C9H10N2O
